US07598232B2
A solution of 4-methyl-2-nitroanisole (25 mmol), N-bromosuccinimide (25 mmol) and benzoyl peroxide (2.5 mmol) in carbon tetrachloride (100 mL) was heated at reflux for 18 h. The reaction mixture was then poured into water and solid separated was filtered. The aqueous layer was extracted with carbon tetrachloride (3×50 mL) and organic phase was separated and evaporated to give a solid product. The solid products were combined and recrystallized from ethyl acetate-hexane to give a crystalline product of 3-nitro-4-methoxy benzyl bromide. m.p. 110-112° C., yield 70-75%.

reactant | 4-methyl-2-nitroanisole | 25 mmol | CC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C8H9NO3
reactant | N-bromosuccinimide | 25 mmol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 2.5 mmol | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | water | O | H2O
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-nitro-4-methoxy benzyl bromide | yield 70-75% | [N+](=O)([O-])C=1C=C(CBr)C=CC1OC | C8H8BrNO3
